US07049307B2
4-nitro-2-(2-piperidin-1-ylethyl)-2H-indazole
4-Nitroindazole (1.00 g, 6.14 mmol) was dissolved in 20 mL of N,N-dimethylformamide and potassium carbonate (2.50 g, 18.1 mmol) was added. The mixture was stirred for 30 minutes and then 1-(2-chloro-ethyl)-piperidine hydrochloride (1.73 g, 9.40 mmol) was added. The mixture was heated to 60° C. for 6 hours, cooled to room temperature, the mixture was filtered through a plug of silica gel and rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated in vacuo to remove N,N-dimethylformamide and the residue purified by flash chromatography (silica gel, triethylamine/ethyl acetate 1/30). 1H NMR (300 MHz, DMSO-D6) δ ppm 1.37 (m, 2 H) 1.45 (m, 4 H) 2.42 (m, 4 H) 2.85 (t, J=6.44 Hz, 2 H) 4.66 (t, J=6.61 Hz, 2 H) 7.49 (m, 1 H) 8.19 (m, 2 H) 8.91 (s, 1 H); MS (DCI/NH3) m/z 275 [M+H]+.

reactant | 4-Nitroindazole | 6.14 mmol, 1.00 g | [N+](=O)([O-])C1=C2C=NNC2=CC=C1 | C7H5N3O2
reactant | potassium carbonate | 18.1 mmol, 2.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloro-ethyl)-piperidine hydrochloride | 9.40 mmol, 1.73 g | Cl.ClCCN1CCCCC1
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 4-nitro-2-(2-piperidin-1-ylethyl)-2H-indazole | [N+](=O)([O-])C=1C2=CN(N=C2C=CC1)CCN1CCCCC1 | C14H18N4O2
